US05439917
2-(p-Carboxyphenyl)-3-methyl-pyrrolo[2,3-b]pyridine
2-(p-Bromophenyl)-3-methyl-pyrrolo-[2,3 -b]pyridine (1 g, 3.5 mmol) was dissolved in 200 ml dry THF, deaerated and cooled to -78° C. n-Butyllithium (5.19 ml, 8.4 mmol) was added dropwise and the mixture was allowed to reach room temperature CO2 (g) was bubbled through the solution for 10 min.

reactant | 2-(p-Bromophenyl)-3-methyl-pyrrolo-[2,3 -b]pyridine | 3.5 mmol, 1 g | BrC1=CC=C(C=C1)C1=C(C=2C(=NC=CC2)N1)C | C14H11BrN2
reactant | n-Butyllithium | 8.4 mmol, 5.19 ml | C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-(p-Carboxyphenyl)-3-methyl-pyrrolo[2,3-b]pyridine | C(=O)(O)C1=CC=C(C=C1)C1=C(C=2C(=NC=CC2)N1)C | C15H12N2O2
